US04843080
Ethyl 2-phenyl-1-[2-(3-indolyl)-ethyl]-1,4,5,6-tetrahydronicotinate
0.273 g. (0.0017 mole) of tryptamine are added to a solution of 0.229 g. (0.00085 mole) of (±)-ethyl 2-benzoyl-5-chloro-valerate prepared according to Example 29 in 5 ml. of chlorobenzene, and the reaction mixture is heated on an oil bath of 150° C. for 5 hours, with stirring, while the water formed is allowed to distill off slowly together with chlorobenzene. After cooling the precipitate is filtered off, washed with chlorobenzene, and the combined chlorobenzene solution is evaporated from a bath of 40° C. on a rotating evaporator. The title compound is obtained by subjecting the residue to column chromatography on 40 g. of silica gel (Geduran Si 60, 0.063-0.200 mm.) using toluene containing 10% of diethyl amine as an eluting agent.

reactant | tryptamine | 0.0017 mole | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | (±)-ethyl 2-benzoyl-5-chloro-valerate | 0.00085 mole | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)CCCCl | C14H17ClO3
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
product | Ethyl 2-phenyl-1-[2-(3-indolyl)-ethyl]-1,4,5,6-tetrahydronicotinate | C1(=CC=CC=C1)C1=C(C(=O)OCC)CCCN1CCC1=CNC2=CC=CC=C12 | C24H26N2O2
